US06479608B1
3,3-diethyl-5-methyl-5-pivaloyloxymethylmorpholin-2-one (217)
2.4 ml (0.017 mol) of triethylamine and then 2.15 g 2 (0.018 mol) of pivaloyl chloride are added dropwise to a solution of 3.45 g (0.017 mol) of 3,3-diethyl-5-methyl-5-hydroxymethylmorpholin-2-one and 0.1 g of 4-dimethylaminopyridine in 20 ml dichloromethane at 15° C. After stirring for 20 hours, the precipitated triethylaminehydrochloride is removed by filtration and the filtrate is washed with water, dried over MgSO4 and concentrated by evaporation in a rotary evaporator. The residue is recrystallised from hexane. This gives 3.9 g (77%) of compound (217), m.p. 51-53° C.

reactant | triethylamine | 0.017 mol, 2.4 ml | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 3,3-diethyl-5-methyl-5-hydroxymethylmorpholin-2-one | 0.017 mol, 3.45 g | C(C)C1(NC(COC1=O)(CO)C)CC | C10H19NO3
catalyst | 4-dimethylaminopyridine | 0.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3,3-diethyl-5-methyl-5-pivaloyloxymethylmorpholin-2-one | C(C)C1(NC(COC1=O)(COC(C(C)(C)C)=O)C)CC | C15H27NO4
